US08431593B2
Step 2. Imidazo[1,2-a]pyrimidine-5-carboxylic acid (adamantan-1-ylmethyl)-amide
In a ½ dram vial, 5-chloro-imidazo[1,2-a]pyrimidine (20.2 mg, 0.13 mmol), Zn(CN)2 (9.3 mg, 0.079 mmol), Pd2(dba)3 (3.0 mg, 0.003 mmol) and DPPF (3.6 mg, 0.006 mmol) are treated with DMF (300 μL) and H2O (3 μl). The vial is flushed and then sealed under argon and heated to 120° C. overnight. At RT, the vial is treated with NaOH (1M, 0.5 mL) and i-PrOAc (0.5 mL), and the upper organic layer is purified via strong cation exchange chromatography. The base-eluted solution is concentrated to dryness and treated with HCl (conc., 0.1 mL) and shaken at RT for 1 h and then at 100° C. for an additional 1 h. The reaction is concentrated to dryness under a stream of nitrogen and treated with adamantan-1-yl-methylamine hydrochloride (8.1 mg, 0.040 mmol), TEA (10% (v/v) ACN, 200 μL), and 2-chloro-1,3-dimethyl-4,5-dihydro-3H-imidazolium chloride (0.2 M ACN, 200 μL, 0.040 mmol). The reaction is sealed under nitrogen and shaken at RT for 1 h. NaOH (1M, 0.5 mL) and i-PrOAc (0.5 mL) are added, and the upper organic layer is removed and concentrated to dryness. The residue is purified via silica gel chromatography using EtOAc followed by TEA/MeOH/EtOAc (2.5:2.5:95% v/v/v) to afford the title compound. NMR (400 MHz, CDCl3) δ 1.59 (m, 6H), 1.64 (m, 3H), 1.72 (m, 3H), 1.99 (m, 3H), 3.18 (d, J=6.4, 2H), 7.68 (d, J=1.2, 1H), 7.83 (d, J=6.8, 1H), 7.99 (d, J=1.6, 1H), 8.12 (bs, 1H), 8.58 (d, J=6.8, 1H).

reactant | 5-chloro-imidazo[1,2-a]pyrimidine | 0.13 mmol, 20.2 mg | ClC1=CC=NC=2N1C=CN2 | C6H4ClN3
reactant | adamantan-1-yl-methylamine hydrochloride | 0.040 mmol, 8.1 mg | Cl.C12(CC3CC(CC(C1)C3)C2)NC
reactant | 2-chloro-1,3-dimethyl-4,5-dihydro-3H-imidazolium chloride | 0.040 mmol, 0.2 M, 200 μL | [Cl-].ClC1=[N+](CCN1C)C
reactant | NaOH | 1M, 0.5 mL | [OH-].[Na+]
reactant | i-PrOAc | 0.5 mL | C(C)(C)OC(=O)C | C5H10O2
catalyst | Zn(CN)2 | 0.079 mmol, 9.3 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.003 mmol, 3.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.006 mmol, 3.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | ACN | C(C)#N | C2H3N
solvent | H2O | 3 μl | O | H2O
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
product | Imidazo[1,2-a]pyrimidine-5-carboxylic acid (adamantan-1-ylmethyl)-amide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=NC=3N2C=CN3 | C18H22N4O
